US04281188
250 mg of benzyl{[[2-(o-fluorobenzoyl)-4-[3-(2-acetoxyethyl)ureido]phenyl]methylcarbamoyl]methyl}carbamate dissolved in 10 ml of absolute methanol are treated with 50 mg of sodium methylate, stirred at room temperature for 1 hour and buffered with a small amount of acetic acid. The mixture is poured on to ice/10% sodium bicarbonate and extracted with methylene chloride. The organic solution is dried over sodium sulphate, filtered and concentrated. After crystallisation from ether/ethanol, there is obtained benzyl{[[2-(o-fluorobenzoyl)-4-[3-(2-hydroxyethyl)ureido]phenyl]methylcarbamoyl]methyl}carbamate which melts at 117°-120 C.

reactant | benzyl{[[2-(o-fluorobenzoyl)-4-[3-(2-acetoxyethyl)ureido]phenyl]methylcarbamoyl]methyl}carbamate | 250 mg | C(C1=CC=CC=C1)OC(NCC(NCC1=C(C=C(C=C1)NC(=O)NCCOC(C)=O)C(C1=C(C=CC=C1)F)=O)=O)=O | C29H29FN4O7
reactant | sodium methylate | 50 mg | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | benzyl{[[2-(o-fluorobenzoyl)-4-[3-(2-hydroxyethyl)ureido]phenyl]methylcarbamoyl]methyl}carbamate | C(C1=CC=CC=C1)OC(NCC(NCC1=C(C=C(C=C1)NC(=O)NCCO)C(C1=C(C=CC=C1)F)=O)=O)=O | C27H27FN4O6
